US05576293
Preparation of N-(1-Naphthylmethyl)-N-[2(S)-((imidazol-4-ylacetyl)-amino)-3(S)-methylpentyl]-glycyl-methionine methyl ester
4-Imidazoleacetic acid (0.064 g, 0.395 mmol), dissolved in DMF (5 mL) was treated with HOBT (0.053 g, 0.40 mmol), EDC (0.076 g, 0.40 mmol), and N-[2(S)-amino-3-methylpentyl)-N-(1-naphtylmethyl)glycyl-methionine methyl ester hydrochloride (0.175 g, 0.329 mmol). The pH was adjusted to 7.5 with Et3N (0.15 mL, 1.1 mmol) and the mixture was stirred at ambient temperature for 24 h. After concentration, and the mixture was partitioned between EtOAc (20 mL) and saturated NaHCO3 solution (10 mL). The aqueous layer was washed with EtOAc (1×20 mL). The organic layers were combined, washed with brine (1×10 m), dried (Na2SO4), filtered and concentrated to give 0.170 g of crude product. Purification by chromatography (silica gel, eluting with 1 to 3% methanol in methylene chloride) gave 0.080 g of pure product. 1H NMR (CD3OD); δ8.30-8.25 (d, 1H, J=9 Hz), 7.91-7.86 (d, 1H, J=6 Hz), 7.85-7.79 (d, 1H, J=9 Hz), 7.56 (s, 1H), 7.55-7.38 (m, 4H), 6.9 (s, 1H), 4.37-4.27 (m, 1H), 4.23-4.04 (m, 3H), 3.67 (s, 3H), 3.49 (ABq, 2H), 3.25 (ABq, 2H), 2.90-2.70 (m, 2H), 2.21-1.97 (m, 2H), 1.95 (s, 3H), 1.88-1.74 (m, 1H), 1.64-1.46 (m, 2H), 1.44-1.25 (m, 1H), 1.14-0.98 (m, 1H), 0.93-0.77 (m, 6H).

reactant | 4-Imidazoleacetic acid | 0.395 mmol, 0.064 g | N1C=NC(=C1)CC(=O)O | C5H6N2O2
reactant | HOBT | 0.40 mmol, 0.053 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.40 mmol, 0.076 g
reactant | N-[2(S)-amino-3-methylpentyl)-N-(1-naphtylmethyl)glycyl-methionine methyl ester hydrochloride | 0.329 mmol, 0.175 g | Cl.COC([C@@H](NC(CN(CC1=CC=CC2=CC=CC=C12)C[C@H](C(CC)C)N)=O)CCSC)=O
reactant | Et3N | 1.1 mmol, 0.15 mL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1-Naphthylmethyl)-N-[2(S)-((imidazol-4-ylacetyl)-amino)-3(S)-methylpentyl]-glycyl-methionine methyl ester | 0.080 g | COC([C@@H](NC(CN(C[C@H]([C@H](CC)C)NC(CC=1N=CNC1)=O)CC1=CC=CC2=CC=CC=C12)=O)CCSC)=O | C30H41N5O4S
